US05073556
5 ml of concentrated sulfuric acid were added to a solution of 20.0 g (0.104 moles) of 2,4,5-trifluoro-3-hydroxybenzoic acid [(XXIII), X=X'=F] (prepared as described in Preparation 13) in 500 ml of ethanol, and the mixture was heated under reflux for 4 hours. The ethanol was then removed by distillation under reduced pressure, and the residue was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium bicarbonate and with water, in that order, after which it was dried over anhydrous sodium sulfate and then concentrated by evaporation under reduced pressure, to give 16.9 g of ethyl 2,4,5-trifluoro-3-hydroxybenzoate as a colorless powder.

reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,4,5-trifluoro-3-hydroxybenzoic acid | 0.104 moles, 20.0 g | FC1=C(C(=O)O)C=C(C(=C1O)F)F | C7H3F3O3
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 2,4,5-trifluoro-3-hydroxybenzoate | 16.9 g | FC1=C(C(=O)OCC)C=C(C(=C1O)F)F | C9H7F3O3
